US04517195
1-(N-Methyl-aminoacetamido)-2-(2-chlorobenzoyl)pyrrole hydrobromide
1-(N-Methyl-(t-butoxycarbonylamino)acetamido]-2-(2-chlorobenzoyl)pyrrole (24 g, 61.2 mmol) was dissolved in 100 ml of ethyl acetate, and 60 ml of n-propanol solution containing 12 ml of 48% HBr was added thereto with stirring. After 1 hour at 35° the solution was evaporated and the residue triturated with ether to give 23.2 g of powder. This powder was recrystallized from isopropanol-ether to give 22 g (96%) of flocculent crystals, m.p. 193°-195°.

reactant | 1-(N-Methyl-(t-butoxycarbonylamino)acetamido]-2-(2-chlorobenzoyl)pyrrole | 61.2 mmol, 24 g | CN(C(CNC(=O)OC(C)(C)C)=O)N1C(=CC=C1)C(C1=C(C=CC=C1)Cl)=O | C19H22ClN3O4
reactant | n-propanol | 60 ml | C(CC)O | C3H8O
reactant | HBr | 12 ml | Br | BrH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-(N-Methyl-aminoacetamido)-2-(2-chlorobenzoyl)pyrrole hydrobromide | 23.2 g | Br.CN(C(CN)=O)N1C(=CC=C1)C(C1=C(C=CC=C1)Cl)=O | InChI=1S/C14H14ClN3O2.BrH/c1-17(13(19)9-16)18-8-4-7-12(18)14(20)10-5-2-3-6-11(10)15;/h2-8H,9,16H2,1H3;1H
